US05262541
35.5g (0.1 mole) of 2-nitro-2'-hydroxy-5-t-octylazobenzene are added to the mixture of 60 ml of methanol, 2.3 g of fluorenone and 64 g of 50% aqueous solution of sodium hydroxide. The mixture is stirred at 70°-75° C. and to the mixture is slowly added 55.4 g (0.3 mol) of glucose in 55 ml of water over 2 hours. The reaction mixture is heated for an additional three hours, then 160 ml of methanol is added at 55°-60° C. and 14.2 g of 35% hydrochloric acid slowly added and stirred at 40°-50° C. for 20 minutes. During this time crystals should appear. Then more hydrochloric acid is added to attain pH 4-5. The reaction is cooled to 25° C. to yield 26.5 g (82%). Compared to Example 1, above, more than three times the amount of fluorenone is needed, more than double the reaction time is required, and a lower yield is obtained than when fluorenol is used.

reactant | 2-nitro-2'-hydroxy-5-t-octylazobenzene | 0.1 mole, 35.5g | [N+](=O)([O-])C1=C(C=C(C=C1)C(C)(C)CC(C)(C)C)N=NC1=C(C=CC=C1)O | C20H25N3O3
reactant | fluorenone | 2.3 g | C1(C=CC=C2C3=CC=CC=C3C=C12)=O | C13H8O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | glucose | 0.3 mol, 55.4 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | hydrochloric acid | 14.2 g | Cl | ClH
solvent | water | 55 ml | O | H2O
solvent | methanol | 160 ml | CO | CH4O
solvent | methanol | 60 ml | CO | CH4O
product | fluorenol | C1(=CC=CC=2C3=CC=CC=C3CC12)O | C13H10O
